US06884774B2
To a solution of tert-butyl 4-(5-bromophenyloxy)-1-piperidinecarboxylate (12.98 g) in methanol (70 ml) was added 28% sodium methoxide methanol solution (37.8 ml) and the mixture was stirred under refluxing for 4 hours. After cooling, the reaction mixture was evaporated in vacuo. The resulting residue was chromatographed on silica gel (400 ml) eluting with a mixture of n-hexane and ethyl acetate (5:1 v/v). The fractions containing the object compound were collected and evaporated under reduced pressure to give tert-butyl 4-(5-methoxypentyloxy)-1-piperidinecarboxylate (16.31 g). This compound was immediately used as the starting compound for the next step.

reactant | tert-butyl 4-(5-bromophenyloxy)-1-piperidinecarboxylate | 12.98 g | BrC=1C=CC=C(C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H22BrNO3
reactant | sodium methoxide methanol | 37.8 ml | CO.C[O-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | tert-butyl 4-(5-methoxypentyloxy)-1-piperidinecarboxylate | 16.31 g | COCCCCCOC1CCN(CC1)C(=O)OC(C)(C)C | C16H31NO4
